US07608629B2
4-Fluoro-N-[4-methyl-3-(1-methyl-piperidin-4-yloxy)-phenyl]-benzamide
Add 4-fluorobenzoyl chloride (222 mg, 1.4 mmol) to a solution of 4-Methyl-3-(1-methyl-piperidin-4-yloxy)-phenylamine (preparation 34, 280 mg, 1.27 mmol) in pyridine (10 mL), beat at 55° C. for 20 hr. Remove volatiles in vacuo, dissolve the residue in CH2Cl2, wash with 0.1N NaOH and saturated NaCl solution sequentially, dry over Na2SO4, filter and concentrate to give a residue. Chromatography on a silica gel column eluting with 6% 2M NH3-methanol in CH2Cl2) provides the title compound as a colorless oil (375 mg, 86%). Mass spectrum (ion spray): m/z=343.3 (M+1); 1H NMR (CDCl3, ppm): 7.94 (s, br, 1H), 7.88 (m, 2H), 7.85 (s, br, 1H), 7.12 (m, 3H), 6.87 (dd, 1H), 4.39 (m, 1H), 2.62 (m, 2H), 2.33 (m, 2H), 2.31 (s, 3H), 2.22 (s, 3H), 2.06-1.83 (m, 4H); Anal calcd for C20H23FN2O2.HCl H2O: C, 60.53; H, 6.60; N, 7.06. Found: C, 60.77; H, 6.20; N, 7.10.

reactant | 4-fluorobenzoyl chloride | 1.4 mmol, 222 mg | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | 4-Methyl-3-(1-methyl-piperidin-4-yloxy)-phenylamine | 1.27 mmol, 280 mg | CC1=C(C=C(C=C1)N)OC1CCN(CC1)C | C13H20N2O
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-Fluoro-N-[4-methyl-3-(1-methyl-piperidin-4-yloxy)-phenyl]-benzamide | 375 mg, 86% | FC1=CC=C(C(=O)NC2=CC(=C(C=C2)C)OC2CCN(CC2)C)C=C1 | C20H23FN2O2
